US07514452B2
Preparation of methyl 4-hydroxymethyl-3-phenyl-2-furancarboxylate
Tetrabutylammonium fluoride (1 M THF solution: 7.62 ml) was added at 25° C. to a THF (10 ml) solution of methyl 4-(tert-butyldimethylsilyloxymethyl)-3-phenyl-2-furancarboxylate (2.20 g), and stirred for 0.5 hours. Chloroform and water were added to the reaction solution, the organic layer was dried over MgSO4, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: 0%→30% ethyl acetate/hexane gradient, thereby giving 1.00 g of the desired compound.

reactant | Tetrabutylammonium fluoride | 1 M, 7.62 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | methyl 4-(tert-butyldimethylsilyloxymethyl)-3-phenyl-2-furancarboxylate | 2.20 g | [Si](C)(C)(C(C)(C)C)OCC=1C(=C(OC1)C(=O)OC)C1=CC=CC=C1 | C19H26O4Si
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | methyl 4-hydroxymethyl-3-phenyl-2-furancarboxylate | 1.00 g | OCC=1C(=C(OC1)C(=O)OC)C1=CC=CC=C1 | C13H12O4
